US05401774
6-Fluoro-5-methoxy-2-methyl-1-(ρ-methylsulfonylbenzylidene)-3-indenyl acetic acid is prepared according to the procedure of Example 7 by the addition of 1.0 mole of m-chloroperbenzoic acid per mole of 6-fluoro-5-methoxy-2-methyl-1-(ρ-methylsulfinylbenzylidene)-3-indenyl acetic acid in an acetone solution.

reactant | m-chloroperbenzoic acid | 1.0 mole | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 6-fluoro-5-methoxy-2-methyl-1-(ρ-methylsulfinylbenzylidene)-3-indenyl acetic acid | FC1=C(C=C2C(=C(C(C2=C1)=CC1=CC=C(C=C1)S(=O)C)C)CC(=O)O)OC | C21H19FO4S
solvent | acetone | CC(=O)C | C3H6O
product | 6-Fluoro-5-methoxy-2-methyl-1-(ρ-methylsulfonylbenzylidene)-3-indenyl acetic acid | FC1=C(C=C2C(=C(C(C2=C1)=CC1=CC=C(C=C1)S(=O)(=O)C)C)CC(=O)O)OC | C21H19FO5S
